US04644071
Preparation 7 2-(2-bromoethyl)naphthalene
To a solution of 25 g (145 mmole) of 2-(2-naphthyl)ethanol and 67.9 g (259 mmole) of triphenylphosphine in 200 ml of benzene was added in portions 46.1 g (259 mmole) of N-bromosuccinimide. A temperature of 45°-50° was maintained by cooling the reaction mixture as needed in an ice bath. After the mixture was poured into 750 ml of hexane and filtered, the filtrate was diluted with an additional 400 ml of hexane and allowed to stand overnight. The solution was concentrated to dryness and the resultant solid was purified by chromatography on silica gel. The title compound (30.5 g), m.p. 55°-57°, was homogeneous by thin-layer chromatography (5%, 10%, and 15% by volume ethyl acetate-hexane on silica gel plates), and was used in subsequent reactions without further purification.

reactant | 2-(2-naphthyl)ethanol | 145 mmole, 25 g | C1=C(C=CC2=CC=CC=C12)CCO | C12H12O
reactant | triphenylphosphine | 259 mmole, 67.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 259 mmole, 46.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | hexane | 750 ml | CCCCCC | C6H14
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-(2-bromoethyl)naphthalene | BrCCC1=CC2=CC=CC=C2C=C1 | C12H11Br
